US05336778
Step B: 3-n-Butyl-5-(2-furyl)-4-(4-nitrobenzyl)-4H-1,2,4-triazole
To 678 mg (2.85 mmole) of ethyl valerate 2-furoylhydrazone dissolved in 3 ml of ethanol was added a solution of 514 mg (2.16 mmole ) of 4-nitrobenzylamine (generated from the hydrochloride by partitioning between ether and saturated Na2CO3 solution) in 3 ml of ethanol. The resulting solution was heated at 45°-50° C. for two hours and then at 70° C. overnight. The solution was cooled and concentrated. Column chromatography of the residue on silica gel (gradient elution with 0.5-2.5% methanol in CH2Cl2) afforded some recovered starting material (ester hydrazone) followed by 432 mg (61%) of the product as a yellow oil which upon standing at 5° C. crystallized to a solid having mp 91°-92.5° C., homogeneous by TLC in 97:3 CH2Cl2 --MeOH; mass spectrum (FAB) m/e 327 (M+1)+.

reactant | ethyl valerate 2-furoylhydrazone | 2.85 mmole, 678 mg | O1C(=CC=C1)C(=O)NN=C(CCCC)OCC | C12H18N2O3
reactant | 4-nitrobenzylamine | 2.16 mmole, 514 mg | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 3-n-Butyl-5-(2-furyl)-4-(4-nitrobenzyl)-4H-1,2,4-triazole | C(CCC)C1=NN=C(N1CC1=CC=C(C=C1)[N+](=O)[O-])C=1OC=CC1 | C17H18N4O3
